US07592477B2
Step a) Preparation of N-dodecyl-4-nitrobenzamide
At 0° C., to a solution of 4-nitro-benzoyl chloride (12.664 g, 68.25 mmol) and DIEA (9.7 g, 75.05 mmol) in anhydrous DCM (200 mL) was added dropwise a solution of dodecylamine (12.650 g, 68.25 mmol in 50 mL of DCM). The reaction mixture was stirred at 0° C. for 30 min, then 1.5 h at rt. The solvents were evaporated and the residue dissolved in boiling AcOEt, washed with water, a 10% aqueous solution of HCl, water, dried over MgSO4 and filtered. The solvents were evaporated to give a yellow solid (23.02 g). This residue was washed twice with diethylether (50 mL) to give after evaporation of the solvent the title compound as a pale yellow powder (20.31 g, 89%). 1H NMR (DMSO-d6, 300 MHz) δ 8.77 (t, 1H, J=5.5 Hz), 8.30 (d, 2H, J=9.0 Hz), 8.04 (d, 2H, J=9.0 Hz), 3.25 (q, 2H, J=6.3 Hz), 1.43-1.58 (m, 2H), 1.12-1.35 (m, 18H), 0.83 (t, 3H, J=6.7 Hz). HPLC (Condition A), Rt: 6.55 min (HPLC purity: 93.2%).

reactant | 4-nitro-benzoyl chloride | 68.25 mmol, 12.664 g | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
reactant | DIEA | 75.05 mmol, 9.7 g | CCN(C(C)C)C(C)C | C8H19N
reactant | dodecylamine | 68.25 mmol, 50 mL, 12.650 g | C(CCCCCCCCCCC)N | C12H27N
solvent | DCM | 200 mL | C(Cl)Cl | CH2Cl2
product | N-dodecyl-4-nitrobenzamide | 23.02 g | C(CCCCCCCCCCC)NC(C1=CC=C(C=C1)[N+](=O)[O-])=O | C19H30N2O3
